US07351724B2
7-Phenyl-1-[5-(pyridin-3-yl)-1,3,4-oxadiazol-2-yl]-heptan-1-one
Starting with methyl 5-(pyridin-3-yl)-[1,3,4]-oxadiazole-2-carboxylate and 6-bromohexylbenzene, the title compound (20 mg, 34%) was obtained as a white solid, using a procedure analogous to that described in Example 1. 1H NMR (400 MHz, CDCl3) 1.44 (m, 4H), 1.66 (quintet, J=7.5 Hz, 2H), 1.82 (quintet, J=7.3 Hz, 2H), 2.63 (dd, J=7.9, 7.3 Hz, 2H), 3.21 (t, J=7.4 Hz, 2H), 7.17-7.19 (m, 3H), 7.26-7.30 (m, 2H), 7.52 (ddd, J=7.9, 4.7, 0.6 Hz, 1H), 7.94 (dt, J=7.9, 1.9 Hz, 1H) 8.85 (dd, J=5.0, 1.8 Hz, 1H), 9.41 (d, J=1.8 Hz, 1H); 13C NMR (CDCl3, 100 MHz) 23.6, 28.8, 28.9, 31.2, 35.8, 35.9, 40.0, 119.4, 123.9, 125.6, 128.2, 128.4, 134.9, 142.6, 148.7, 153.4, 161.0, 164.3, 187.3; MALDI-FTMS m/z 336.1716 (C20H21N3O2+H+ requires 336.1706).

reactant | methyl 5-(pyridin-3-yl)-[1,3,4]-oxadiazole-2-carboxylate | N1=CC(=CC=C1)C1=NN=C(O1)C(=O)OC | C9H7N3O3
reactant | 6-bromohexylbenzene | BrCCCCCCC1=CC=CC=C1 | C12H17Br
product | 7-Phenyl-1-[5-(pyridin-3-yl)-1,3,4-oxadiazol-2-yl]-heptan-1-one | 20 mg, 34% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=NN1)C=1C=NC=CC1 | C20H21N3O2
